* Z:\mnt\design.r\spice\examples\1716.asc
V1 +V 0 5
V3 N001 0 PULSE(0 2 0 .5m .5m 0 1m)
V2 N003 0 1
XU1 N003 N001 +V 0 N002 LT1716
.tran 3m
.lib LTC1.lib
.backanno
.end
